US05432164
2-Chloro-N-(2-phenyl-1-piperidinyl)adenosine
The title compound was prepared according to method A as described in Example 1 was obtained as a solid (0.25 g, 26%) by the reaction of 1-amino-2-phenylpiperidine (Overberger, C. G. and Herin, L. P. Journal of Organic Chemistry, 1962, 27, 417) with 9-(2',3',5'-tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine, followed by deprotection (as described in Example 5) to give the title nucleoside (a ca. 60:40 mixture of diastereoisomers): m.p. 186°-210° C.; 1H NMR (400 MHz, Me2SO-d6) δ3.47-3.20 (2H, m, 5'-CH2), 3.82-3.97, 4.04-4.14 (2H, 2m, H-3' and H-4'), 4.46-4.56 (1H, 2q, H-2'), 5.33, 5.73 (1H, 2d, H-1'), 8.26, 8.48 (1H, 2s, H-8).

reactant | 1-amino-2-phenylpiperidine | NN1C(CCCC1)C1=CC=CC=C1 | C11H16N2
reactant | 9-(2',3',5'-tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
product | 2-Chloro-N-(2-phenyl-1-piperidinyl)adenosine | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NN1C(CCCC1)C1=CC=CC=C1 | C21H25ClN6O4
